US07635700B2
To a stirred solution of ethoxyacetic acid (0.39 mL, 4.2 mmol), oxalyl chloride (0.34 mL, 3.9 mmol) in diethylether (3 mL) was added DMF (0.02 mL). The mixture was stirred at room temp for two hours, followed by addition of 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione (0.60 g, 2.0 mmol) and tetrahydrofuran (20 mL). The mixture was refluxed overnight and then cooled and quenched by methanol (˜5 mL). The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-2-ethoxy-acetamide as a white solid (90 mg, 12% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 5.75 min (99.6%); mp, 291-293° C.; 1HNMR (DMSO-d6) δ 1.23 (t, J=6 Hz, 3H, CH2CH3), 2.18-2.25 (m, 1H, CHH), 2.58-2.92 (m, 6H, CHCH2, CH3), 3.57 (q, J=7 Hz, 2H, CH2CH3), 4.01-4.12 (dd, J=16 Hz, 2H, CH2O), 5.30 (dd, J=6, 11 Hz, 1H, CH), 7.30-8.64 (m, 3H, Ar), 11.07 (s, 1H, NH), 12.52 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.61, 20.81, 23.25, 30.52, 56.64, 67.05, 70.09, 107.95, 115.13, 120.83, 135.55, 138.97, 147.90, 154.80, 162.61, 169.38, 169.54, 172.51. LCMS MH=373; Anal Calcd For C18H20N4O5: C, 58.06; H, 5.41; N, 15.05. Found: C, 57.83; H, 5.37; N, 14.92.

reactant | ethoxyacetic acid | 4.2 mmol, 0.39 mL | C(C)OCC(=O)O | C4H8O3
reactant | oxalyl chloride | 3.9 mmol, 0.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.02 mL | CN(C)C=O | C3H7NO
reactant | 3-(5-amino-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 2.0 mmol, 0.60 g | NC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C14H14N4O3
solvent | diethylether | 3 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-yl]-2-ethoxy-acetamide | 90 mg, 12% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)NC(COCC)=O)C)=O | C18H20N4O5
